US05723479
A mixture of methyl 2-formyl-5-methoxyphenoxyacetate (27.7 g), 1,8-diazabicyclo[5.4.0]-7-undecene (40.8 g) and toluene (200 ml) was heated under refluxing conditions for 4 hours. The reaction mixture was concentrated under reduced pressure; after 6N hydrochloric acid was added, the residue was extracted with ethyl acetate. After the ethyl acetate layer was washed with water and dried (MgSO4), the solvent was distilled off; 10% hydrochloric acid-methanol (30 ml) was added to the residue, followed by heating at 70° to 80° C. for 4 hours. The reaction mixture was concentrated under reduced pressure; water was added, followed by extraction with ethyl acetate. After the ethyl acetate layer was washed with water and dried (MgSO4), the solvent was distilled off; the residue was subjected to silica gel column chromatography. From the fraction eluted with chloroform-hexane (1:2, v/v), methyl 6-methoxybenzofuran-2-carboxylate (14.3 g, 57%) was obtained, which was then recrystallized from dichloromethane-isopropyl ether to yield colorless prisms having a melting point of 97° to 98° C.

reactant | methyl 2-formyl-5-methoxyphenoxyacetate | 27.7 g | C(=O)C1=C(OCC(=O)OC)C=C(C=C1)OC | C11H12O5
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 40.8 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 6-methoxybenzofuran-2-carboxylate | 14.3 g, 57% | COC1=CC2=C(C=C(O2)C(=O)OC)C=C1 | C11H10O4
